US07405305B2
d) (4-Nitrobenzofur-7-yl)acetonitrile
Add dimethyl[2-(4-nitrobenzofur-7-yl)vinyl]amine (4.8 g, 20.6 mmol) and hydroxylamine-O-sulfonic acid (4.6 g, 40.6 mmol) to dimethylformamide (45 mL) and stir at room temperature for 15 minutes. Heat at 100° C. under nitrogen for 1 hour, cool to room temperature, dilute with diethyl ether, and wash with water and aqueous saturated sodium chloride. Dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Chromatography on flash silica using 85% hexane, 15% ethyl acetate gives 2.9 g (64%) of the title compound as a light brown solid. Mass spectrum (ES, m/z) (M−1)=200.9.

reactant | dimethyl[2-(4-nitrobenzofur-7-yl)vinyl]amine | 20.6 mmol, 4.8 g | CN(C=CC1=CC=C(C=2C=COC21)[N+](=O)[O-])C | C12H12N2O3
reactant | hydroxylamine-O-sulfonic acid | 40.6 mmol, 4.6 g | NOS(=O)(=O)O | H3NO4S
reactant | dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4-Nitrobenzofur-7-yl)acetonitrile | 2.9 g, 64% | [N+](=O)([O-])C1=CC=C(C2=C1C=CO2)CC#N | C10H6N2O3
